US05173493
A mixture of 7-[(1-benzyl-5-methyl-1H-imidazol-4-yl)methyl]-10-[(dimethylamino)methyl]-8,9-dihydropyrido-[1,2-a]indol-6(7H)-one (215 mg), ammonium formate (318 mg), 10% palladium on carbon (107 mg), water (1 ml), ethanol (2 ml), and tetrahydrofuran (1 ml) was heated at 75° C. for 40 minutes and then cooled. Ammonium formate (300 mg), 10% palladium on carbon (110 mg), water (1 ml), and ethanol (2 ml) were added successively to the reaction mixture. Heating at 75° C. was continued for further 1 hour 20 minutes. After cooling, the reaction mixture was filtered and the residue was washed with 10% methanol-chloroform. The filtrate was evaporated in vacuo. The residue was diluted with water and extracted three times with 10% methanol-chloroform. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfte, and evaporated in vacuo. Silica gel column chromatography of the residue using 5% methanol-chloroform as eluent gave 8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one (108 mg).

reactant | 7-[(1-benzyl-5-methyl-1H-imidazol-4-yl)methyl]-10-[(dimethylamino)methyl]-8,9-dihydropyrido-[1,2-a]indol-6(7H)-one | 215 mg | C(C1=CC=CC=C1)N1C=NC(=C1C)CC1CCC=2N(C3=CC=CC=C3C2CN(C)C)C1=O | C27H30N4O
reactant | ammonium formate | 318 mg | C(=O)[O-].[NH4+]
reactant | Ammonium formate | 300 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 107 mg | [Pd] | Pd
catalyst | palladium on carbon | 110 mg | [Pd] | Pd
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
product | 8,9-dihydro-10-methyl-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)-one | 108 mg | CC1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C18H19N3O
